US06150352
Step 4.1D 6-allyl-7-chloro-3-(3 5-dimethylphenyl)-4-hydroxy-1H-quinolin-2-one
To a solution of 5-allyl-4-chloro-2-[2-(3,5-dimethylphenyl)-acetylamino]-benzoic acid methyl ester (1.4 g in 40 mL dry tetrahydrofuran) at 0° C. was added dropwise a solution of sodium bis(trimethylsilyl)amide (9.8 mL of a 1.0M solution in tetrahydrofuran) and the mixture warmed to room temperature. After 4 hours, the reaction was cooled to 0° C. and quenched by the addition of of 200 mL iced 6N hydrochloric acid. The slurry was stirred for 15 minutes then filtered and washed sequentially with ice water (500 mL), cold hexane (200 mL) and cold toluene (100 mL). The residue was dried in vacuo to give the title compound (960 mg).

reactant | 5-allyl-4-chloro-2-[2-(3,5-dimethylphenyl)-acetylamino]-benzoic acid methyl ester | 40 mL, 1.4 g | COC(C1=C(C=C(C(=C1)CC=C)Cl)NC(CC1=CC(=CC(=C1)C)C)=O)=O | C21H22ClNO3
reactant | sodium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 6-allyl-7-chloro-3-(3 5-dimethylphenyl)-4-hydroxy-1H-quinolin-2-one | 960 mg | C(C=C)C=1C=C2C(=C(C(NC2=CC1Cl)=O)C1=CC(=CC(=C1)C)C)O | C20H18ClNO2
